US05158966
5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-3-thiazolidineacetonitrile.
7.03 g of 5-[[3,5-Bis(1,1-dimethylethyl)-4hydroxyphenyl]methylene]-4-thiazolidinone and 2.64 g of bromoacetonitrile were reacted in the presence of 0.97 g of 60% sodium hydride in mineral oil and 330 ml of tetrahydrofuran. Work-up of the reaction mixture provided 3.21 g of the desired title product, m.p. 186-188° C.

reactant | 5-[[3,5-Bis(1,1-dimethylethyl)-4hydroxyphenyl]methylene]-4-thiazolidinone | 7.03 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(NCS1)=O | C18H25NO2S
reactant | bromoacetonitrile | 2.64 g | BrCC#N | C2H2BrN
reactant | sodium hydride | 0.97 g | [H-].[Na+]
solvent | tetrahydrofuran | 330 ml | O1CCCC1 | C4H8O
product | 5-[[3,5-bis(1,1-dimethylethyl)-4-hydroxyphenyl]methylene]-4-oxo-3-thiazolidineacetonitrile | 3.21 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)C=C1C(N(CS1)CC#N)=O | C20H26N2O2S
